US04062960
N-(N-[1-Methoxycarbonylethyl]carbamoyl)-2-phenylethenesulfonamide
To a solution of 3.5 g. of DL-alanine methyl ester hydrochloride in 20 ml. of N,N-dimethylformamide is added 1.05 g. of a 56.6% suspension of sodium hydride in mineral oil. The mixture is stirred at ambient temperature for 15 minutes, and then 3.8 g. of N-(N,N-diphenylcarbamoyl)-2-phenylethenesulfonamide is added. The whole reaction mixture is then maintained at ca. 90° C. for 40 minutes. After being allowed to cool to room temperature, it is diluted with an excess of ether and then it is extracted with water. Acidification of the water extract with dilute hydrochloric acid causes precipitation of the crude product, which is then filtered off. The ether phase is washed with dilute hydrochloric acid, which causes a further crop of product to precipitate. It is filtered off and the two crops of product are combined. This yields 1.55 g. of material having a melting point of 135°-139° C. The crude product is recrystallized from a mixture of acetone and hexane, giving 0.70 g. of N-[N-1-methoxycarbonylethyl)carbamoyl]-2-phenylethenesulfonamide, m.p. 138°-140° C.

reactant | DL-alanine methyl ester hydrochloride | Cl.COC(C(N)C)=O
reactant | sodium hydride | [H-].[Na+]
reactant | N-(N,N-diphenylcarbamoyl)-2-phenylethenesulfonamide | C1(=CC=CC=C1)N(C(=O)NS(=O)(=O)C=CC1=CC=CC=C1)C1=CC=CC=C1 | C21H18N2O3S
reactant | 2-phenylethenesulfonamide | C1(=CC=CC=C1)C=CS(=O)(=O)N | C8H9NO2S
solvent | ether | CCOCC | C4H10O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-(N-[1-Methoxycarbonylethyl]carbamoyl)-2-phenylethenesulfonamide | COC(=O)C(C)NC(=O)NS(=O)(=O)C=CC1=CC=CC=C1 | C13H16N2O5S
